US06949579B2
(2E) N-[6-(trifluoromethyl)-1H-indazol-3-yl]-2-butenamide
0.23 cm3 of crotonyl chloride is added to 500 mg of 6-trifluoro methyl-1H-indazole-3-amine, prepared as described in patent U.S. Pat. No. 3,133,081, in 10 cm3 of pyridine, cooled to about 10° C. The temperature is allowed to return to about 19° C. over 17 hours. The reaction medium is evaporated under reduced pressure (2 kPa; 50° C.) and the residue is taken up in 25 cm3 of tetrahydrofuran, 25 cm3 of ethyl acetate and 25 cm3 of distilled water. The organic phase is washed with 25 cm3 of distilled water. The combined organic phases are dried over magnesium sulphate, filtered through a sinter funnel and then evaporated under reduced pressure (2 kPa; 50° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2 cm), eluting with a cyclohexane/ethyl acetate mixture (70/30 by volume) and collecting 30 cm3 fractions. The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.). The residue is taken up in 30 cm3 of diisopropyl ether and then filtered off on a sinter funnel. After drying (90 Pa; 45° C.), 41 mg of N-[6-(trifluoromethyl)-1H-indazol-3-yl]-2-butenamide (E form) are obtained in the form of a white solid melting at 208° C.

reactant | crotonyl chloride | 0.23 cm3 | C(\C=C\C)(=O)Cl | C4H5ClO
reactant | 6-trifluoro methyl-1H-indazole-3-amine | 500 mg | FC(C1=CC=C2C(=NNC2=C1)N)(F)F | C8H6F3N3
solvent | pyridine | 10 cm3 | N1=CC=CC=C1 | C5H5N
product | N-[6-(trifluoromethyl)-1H-indazol-3-yl]-2-butenamide | FC(C1=CC=C2C(=NNC2=C1)NC(C=CC)=O)(F)F | C12H10F3N3O
